US06495719B2
Butyllithium (70 mL of 2.5 N solution) was added to 350 mL of anhydrous tetrahydrofuran (THF) at −65° C. A solution of diethylphosphonoacetic acid (15.9 g) in 130 mL of anhydrous THF was added dropwise to the stirred solution at −65° C. over a period of 75 minutes. The resulting solution was stirred at −65° C. for an additional 30 minutes and then a solution of trans-3-(2-furyl)acrolein (10.0 g) in 85 mL of anhydrous THF was added to the reaction at −65° C. over a period of 2 hours. The reaction was allowed to warm to room temperature and stirred overnight. The reaction was then acidified with 5% hydrochloric acid (85 mL) to a pH of 3.5 followed by addition of 30 mL of water. The aqueous layer was extracted with 50 mL of ether twice and with 50 mL of ethyl acetate once. The combined organic extract was dried over anhydrous sodium sulfate, filtered and concentrated under vacuum to give an oil. The crude oil was dissolved in 45 mL of hot methanol and then refrigerated overnight. The crystals formed were filtered and dried under vacuum to afford 9.2 g of the desired 5-(2-furyl)-2,4-pentadienoic acid. 1H NMR (acetone-d6, 300 MHz), δ(ppm) 7.64 (broad s, 1H), 7.42 (m, 1H), 6.86 (m, 2H), 6.58 (m, 2H), 6.05 (d, 1H).

reactant | Butyllithium | 2.5 N, 70 mL | C(CCC)[Li]
reactant | diethylphosphonoacetic acid | 15.9 g | C(C)OP(=O)(OCC)CC(=O)O | C6H13O5P
reactant | trans-3-(2-furyl)acrolein | 10.0 g | O1C(=CC=C1)/C=C/C=O | C7H6O2
reactant | hydrochloric acid | 85 mL | Cl | ClH
solvent | THF | 130 mL | O1CCCC1 | C4H8O
solvent | THF | 85 mL | O1CCCC1 | C4H8O
solvent | methanol | 45 mL | CO | CH4O
solvent | tetrahydrofuran | 350 mL | O1CCCC1 | C4H8O
solvent | water | 30 mL | O | H2O
product | 5-(2-furyl)-2,4-pentadienoic acid | 9.2 g | O1C(=CC=C1)C=CC=CC(=O)O | C9H8O3
